US07807709B2
N-((3S*,4S*)-4-Hydroxymethyl-pyrrolidin-3-ylmethyl)-N-isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzamide
To a solution of (3S*,4R*)-3-hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (85 mg, 0.172 mmol) in 2 mL CH2Cl2, TFA (85 μL, 2.23 mmol) is added. The mixture is stirred 4.5 h at RT, and poured into a saturated solution of NaHCO3. The layers are separated, and the aqueous one is back-extracted twice with CH2Cl2. The combined organic extracts are dried over Na2SO4, filtered and concentrated. The crude material is purified by flash chromatography on Isolute SPE Flash NH2 column (eluent: CH2Cl2/MeOH 100:0 to 99:1) to give the title product. MS (LC-MS): 395.1 [M+H]+; tR (HPLC, Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 3.75 min.

reactant | (3S*,4R*)-3-hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.172 mmol, 85 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CO | C26H42N2O7
reactant | TFA | 2.23 mmol, 85 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-((3S*,4S*)-4-Hydroxymethyl-pyrrolidin-3-ylmethyl)-N-isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzamide | OC[C@H]1[C@@H](CNC1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C21H34N2O5
